US08486968B2
(b) N-(trans-4-Trifluoromethyl-cyclohexyl)-6-(2,2-difluoroethylamino)-5-nitro-2-(morpholinyl)-nicotinic acid amide
A mixture of N-(trans-4-trifluoromethyl-cyclohexyl)-6-(2,2-difluoroethylamino)-5-nitro-2-(2,2-difluoroethoxy)-nicotinic acid amide (0.40 g, 0.83 mmol), morpholine (87 mg, 1.0 mmol), K2CO3 (170 mg, 1.24 mmol) and 2.5 mL DMSO is irradiated in a microwave apparatus at 100° C. for 30 min. The mixture is poured into water and the precipitate is collected by filtration and dried. Yield 0.34 g

reactant | N-(trans-4-trifluoromethyl-cyclohexyl)-6-(2,2-difluoroethylamino)-5-nitro-2-(2,2-difluoroethoxy)-nicotinic acid amide | 0.83 mmol, 0.40 g | FC([C@@H]1CC[C@H](CC1)NC(C1=C(N=C(C(=C1)[N+](=O)[O-])NCC(F)F)OCC(F)F)=O)(F)F | C17H19F7N4O4
reactant | morpholine | 1.0 mmol, 87 mg | N1CCOCC1 | C4H9NO
reactant | K2CO3 | 1.24 mmol, 170 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMSO | 2.5 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-(trans-4-Trifluoromethyl-cyclohexyl)-6-(2,2-difluoroethylamino)-5-nitro-2-(morpholinyl)-nicotinic acid amide | FC([C@@H]1CC[C@H](CC1)NC(C1=C(N=C(C(=C1)[N+](=O)[O-])NCC(F)F)N1CCOCC1)=O)(F)F | C19H24F5N5O4
